US09238631B2
c) (5S)-6-tert-Butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-[2-(4-hydroxyphenyl)ethyl]-6-oxohexanoic acid
To a solution of 125 mg of 4-benzyl 1,4-di-tert-butyl (1S)-6-[4-(benzyloxy)phenyl]-1-[(tert-butoxycarbonyl)amino]hexane-1,4,4-tricarboxylate (0.18 mmol) in methanol (5 mL) was added 10% palladium on charcoal (15 mg) and the mixture was stirred under an atmosphere of hydrogen for 16 h at room temperature. The catalyst was removed by filtration, and the filtrate was evaporated to give the target compound (84 mg, 89% yield) which was used without further purification.

reactant | 4-benzyl 1,4-di-tert-butyl (1S)-6-[4-(benzyloxy)phenyl]-1-[(tert-butoxycarbonyl)amino]hexane-1,4,4-tricarboxylate | 0.18 mmol, 125 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(CC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C42H55NO9
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on charcoal | 15 mg | [Pd] | Pd
product | (5S)-6-tert-Butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-[2-(4-hydroxyphenyl)ethyl]-6-oxohexanoic acid | 84 mg, 89% yield | C(C)(C)(C)OC([C@H](CCC(C(=O)O)(CCC1=CC=C(C=C1)O)C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C28H43NO9
